US07994176B2
1-(4-Bromo-2,6-dichloro-benzyl)-3-piperidin-1-yl-pyrrolidin-2-one
Treat a solution of 3-piperidin-1-yl-pyrrolidin-2-one (0.33 g, 1.96 mmol) in DMF (6 mL) with 60% sodium hydride (0.12 g, 3.00 mmol) and stir at room temperature for 15 minutes under N2. Cool the reaction to 0° C., treat with 5-bromo-2-(bromomethyl)-1,3-dichlorobenzene (0.70 g, 2.19 mmol), stir for 15 minutes at 0° C., warm to room temperature, and stir for 3 hours under N2. Quench the reaction with water and dilute with diethyl ether. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify with a 0 to 5% methanol in CH2Cl2 gradient to afford 0.718 g (90%) of the titled product. Rf=0.29 (9/1 CH2Cl2/methanol). ES MS (m/z): 407 (M+).

reactant | 3-piperidin-1-yl-pyrrolidin-2-one | 1.96 mmol, 0.33 g | N1(CCCCC1)C1C(NCC1)=O | C9H16N2O
reactant | sodium hydride | 3.00 mmol, 0.12 g | [H-].[Na+]
reactant | 5-bromo-2-(bromomethyl)-1,3-dichlorobenzene | 2.19 mmol, 0.70 g | BrC=1C=C(C(=C(C1)Cl)CBr)Cl | C7H4Br2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-Bromo-2,6-dichloro-benzyl)-3-piperidin-1-yl-pyrrolidin-2-one | 0.718 g, 90% | BrC1=CC(=C(CN2C(C(CC2)N2CCCCC2)=O)C(=C1)Cl)Cl | C16H19BrCl2N2O
